US04306097
1-Bromo-2,4-dibenzyloxybenzene
A mixture of 75.0 g. (0.397 mol.) of 4-bromoresorcinol, 95.1 ml. (0.80 mol.) of benzylbromide and 331 g. (2.4 mol.) of anhydrous potassium carbonate in 400 ml. of N,N-dimethylformamide was stirred for 12 hours at 25° C. and for 4 hours at 85° C. The reaction mixture was cooled and added to one liter of ice--200 ml. pentane--100 ml. ether. The organic phase was washed with three 500 ml. portions of water, dried over magnesium sulfate and evaporated to an oil. The oil was rapidly chromatographed on 400 g. of silica gel eluted with 20% ether-pentane to yield 80 g. of oil. The chromatographed oil was crystallized from pentane at 0° C. to yield 45.0 g. (30%) of the title compound, M.P. 37°-38° C.

reactant | 4-bromoresorcinol | 0.397 mol | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | benzylbromide | 0.80 mol | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 2.4 mol | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | pentane | -100 ml | CCCCC | C5H12
product | 1-Bromo-2,4-dibenzyloxybenzene | 30% | BrC1=C(C=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C20H17BrO2
